US05981533
5-(3-Chloro-phenyl)-1.5-dihydro-4-imino-3-(3-methoxy-phenylamino)-4H-pyrazolo[3,4-d]pyrimidine
A mixture of 3.85 g (13.49 mmol) of 4-cyano-5-(ethoxy-methyleneamino)-3-(3-methoxy-phenylamino)-pyrazole, 2.84 ml (27.02 mmol) of 3-chloro-aniline and 75 ml of ethanol is heated under reflux for 2 hours. The reaction mixture is then cooled to RT and filtered. Washing the crystals with ethanol and diethyl ether yields the title compound; m.p. 190-192° C.

reactant | 4-cyano-5-(ethoxy-methyleneamino)-3-(3-methoxy-phenylamino)-pyrazole | 13.49 mmol, 3.85 g | C(#N)C=1C(=NNC1N=COCC)NC1=CC(=CC=C1)OC | C14H15N5O2
reactant | 3-chloro-aniline | 27.02 mmol, 2.84 ml | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 5-(3-Chloro-phenyl)-1.5-dihydro-4-imino-3-(3-methoxy-phenylamino)-4H-pyrazolo[3,4-d]pyrimidine | ClC=1C=C(C=CC1)N1C=NC2=C(C1=N)C(=NN2)NC2=CC(=CC=C2)OC | C18H15ClN6O
